* Z:\home\dlugano\UTN\4to\TC2\TC2_2023_Lugano\Tareas_Semanales\TS6\Punto1.asc
R1 N001 0 1
R2 N002 N001 2
R3 N003 N002 3
L1 N001 0 100m
L2 N003 N002 100m
V2 N001 0 1 AC 1 0 Rser=1m
K L1 L2 1
.net I(R3) V2
.ac dec 100 .001 100
* .tran 0 1 0 100ms
.backanno
.end
