* Z:\home\dlugano\UTN\4to\TC2\TC2_2023_Lugano\Tareas_Semanales\TS6\sims\Punto1.asc
R1 N001 0 1
R2 N002 N001 2
R3 N003 N002 3
L1 0 N001 1
L2 N002 N003 1
V1 N001 0 1 AC 1 0 Rser=0.1m
K L1 L2 1
.net I(R3) V1
.ac dec 100 .1 1000
* .tran 0 1 0 100ms
.backanno
.end
