* Z:\home\dlugano\UTN\4to\TC2_2023_Lugano\Tareas_Semanales\TS11\sims\TS11_2.asc
R1 N002 N001 1
C1 out N002 {C1}
R2 N003 out 0.25
C2 N003 0 {C2}
C3 out 0 {C3}
V1 N001 0 AC 1 0
R3 out 0 100Meg
.param f=1Hz
.param w0=2*pi*f
.param C1=0.4/w0
.param C2=4/w0
.param C3=0.5/w0
.net I(R3) V1
.ac dec 100 0.1 10
.backanno
.end
