* Z:\home\dlugano\UTN\4to\TC2\TC2_2023_Lugano\Tareas_Semanales\TS4_bis2\sim\GIC_BIC.asc
XU1 N014 N013 N010 opamp Aol=100K GBW=10Meg
XU2 N014 N016 N015 opamp Aol=100K GBW=10Meg
R1_a N015 N013 1
R1_b N010 N014 1
R1_c N016 N010 1
R1_d 0 N016 1
Rc1 0 N013 20.154
Rb1 Vi N013 13.214
C1_a N013 0 {C1_a}
C1_b N014 N015 {C1_b}
V1 Vi 0 AC 1 0
XU3 N009 N008 N005 opamp Aol=100K GBW=10Meg
XU4 N009 N012 N011 opamp Aol=100K GBW=10Meg
R2_a N011 N008 1.107
R2_b N005 N009 1.107
R2_c N012 N005 1.107
R2_d 0 N012 1.107
Rb2 N010 N008 35.534
C2_a N008 0 {C2_a}
C2_b N009 N011 {C2_b}
XU5 N003 N001 N002 opamp Aol=100K GBW=10Meg
XU6 N003 N007 N006 opamp Aol=100K GBW=10Meg
R3_a N006 N001 0.903
R3_b N002 N003 0.903
R3_c N007 N002 0.903
R3_d 0 N007 0.903
Rb3 N005 N001 28.986
C3_a N001 0 {C3_a}
C3_b N003 N006 {C3_b}
XU7 N004 N002 Vo opamp Aol=100K GBW=10Meg
Rx N004 0 1
Rf Vo N004 8.75
Rc3 N001 0 28.986
R1 N008 0 35.534
.lib opamp.sub
.param wo=2*pi*f
.param f=1
.param C1_a=1/wo
.param C1_b=1/wo
.param C2_a=1/wo
.param C2_b=1/wo
.param C3_a=1/wo
.param C3_b=1/wo
.ac dec 10000 0.1 10
.backanno
.end
